US08703810B2
Step 4: 2-(2-Fluoro-3-methoxyphenyl)acetic acid
To a mixture of 2-(2-fluoro-3-methoxyphenyl)acetonitrile (6.7 g, 40.6 mmol) in water (40 mL) and methanol (40 mL), sodium hydroxide (3.2 g, 81.1 mmol) was added. The resulting mixture was stirred at 60° C. for 5 h. After cooling to room temperature, methanol was evaporated under reduced pressure. The residue was acidified with 10% HCl until pH 5. The resulting precipitate was collected by filtration and dried to afford the title compound (6.3 g).

reactant | 2-(2-fluoro-3-methoxyphenyl)acetonitrile | 40.6 mmol, 6.7 g | FC1=C(C=CC=C1OC)CC#N | C9H8FNO
reactant | sodium hydroxide | 81.1 mmol, 3.2 g | [OH-].[Na+]
reactant | water | 40 mL | O | H2O
solvent | methanol | 40 mL | CO | CH4O
product | 2-(2-Fluoro-3-methoxyphenyl)acetic acid | 6.3 g | FC1=C(C=CC=C1OC)CC(=O)O | C9H9FO3
